US07709483B2
6-({4-[(2,3-Dihydro-1H-pyrido[3,4-b][1,4]oxazin-7-ylmethyl)amino]-1-piperidinyl}methyl)-7-fluoro-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxalin-3-one dihydrochloride
1,1-Dimethylethyl 7-[({1-[(7-fluoro-3-oxo-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxalin-6-yl)methyl]-4-piperidinyl}amino)methyl]-2,3-dihydro-1H-pyrido[3,4-b][1,4]oxazine-1-carboxylate (91 mg, 0.165 mmol) in dichloromethane (2 ml) and methanol (1.5 ml) was treated with 4M hydrogen chloride in 1,4-dioxane (3.5 ml). After standing at room temperature for 2.5 h, the mixture was evaporated. The residue was triturated twice with ether and dried to give the title compound (89 mg).

reactant | 1,1-Dimethylethyl 7-[({1-[(7-fluoro-3-oxo-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxalin-6-yl)methyl]-4-piperidinyl}amino)methyl]-2,3-dihydro-1H-pyrido[3,4-b][1,4]oxazine-1-carboxylate | 0.165 mmol, 91 mg | FC1=C2C=3N(C(C=NC3C=C1)=O)CC2CN2CCC(CC2)NCC2=CC1=C(OCCN1C(=O)OC(C)(C)C)C=N2 | C29H35FN6O4
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | methanol | 1.5 ml | CO | CH4O
solvent | 1,4-dioxane | 3.5 ml | O1CCOCC1 | C4H8O2
product | 6-({4-[(2,3-Dihydro-1H-pyrido[3,4-b][1,4]oxazin-7-ylmethyl)amino]-1-piperidinyl}methyl)-7-fluoro-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxalin-3-one dihydrochloride | 89 mg | Cl.Cl.N1C2=C(OCC1)C=NC(=C2)CNC2CCN(CC2)CC2CN1C(C=NC=3C=CC(=C2C13)F)=O | InChI=1S/C24H27FN6O2.2ClH/c25-18-1-2-19-24-23(18)15(14-31(24)22(32)12-29-19)13-30-6-3-16(4-7-30)27-10-17-9-20-21(11-28-17)33-8-5-26-20;;/h1-2,9,11-12,15-16,26-27H,3-8,10,13-14H2;2*1H
